US09371320B2
B) 2-(4-(7-cyano-1-cyclopentyl-4-methoxy-1H-pyrrolo[3,2-c]pyridin-3-yl)-1H-pyrazol-1-yl)acetamide
To a solution of 1-cyclopentyl-4-methoxy-3-(1H-pyrazol-4-yl)-1H-pyrrolo[3,2-c]pyridine-7-carbonitrile (55.3 mg) in THF (2 mL) was added sodium hydride (dispersion in mineral oil, 14.4 mg) at 0° C., and the mixture was stirred for 1 hr. To the reaction mixture was added 2-bromoacetamide (29.8 mg) at 0° C., and the reaction mixture was stirred overnight. The reaction mixture was poured into water, and the mixture was extracted twice with ethyl acetate and THF. The combined organic layers was washed with saturated brine, and dried over anhydrous magnesium sulfate, and the solvent was evaporated under reduced pressure. The residue was purified by silica gel column chromatography (ethyl acetate/hexane/methanol) to give the title compound (27.5 mg).

reactant | 1-cyclopentyl-4-methoxy-3-(1H-pyrazol-4-yl)-1H-pyrrolo[3,2-c]pyridine-7-carbonitrile | 55.3 mg | C1(CCCC1)N1C=C(C=2C(=NC=C(C21)C#N)OC)C=2C=NNC2 | C17H17N5O
reactant | sodium hydride | 14.4 mg | [H-].[Na+]
reactant | 2-bromoacetamide | 29.8 mg | BrCC(=O)N | C2H4BrNO
reactant | water | O | H2O
solvent | THF | 2 mL | C1CCOC1 | C4H8O
product | 2-(4-(7-cyano-1-cyclopentyl-4-methoxy-1H-pyrrolo[3,2-c]pyridin-3-yl)-1H-pyrazol-1-yl)acetamide | 27.5 mg | C(#N)C=1C2=C(C(=NC1)OC)C(=CN2C2CCCC2)C=2C=NN(C2)CC(=O)N | C19H20N6O2
